US06281363B1
A solution of 1.0 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide in 10 ml of dimethylformamide was treated with 1.24 g of N-(9-fluorenylmethyloxycarbonyl)-glycine and 0.80 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride. The mixture was stirred overnight at room temperature and evaporated. The residue was dissolved in ethyl acetate and washed with 2M aqueous hydrogen chloride, 5% aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride. Drying over anhydrous magnesium sulphate followed by evaporation and trituration with diethyl ether gave 1.54 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-[N-(9-fluorenylmethyloxycarbonyl)-glycinyl]-4-methylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide | 1.0 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN)CC(C)C | C21H32N2O3
reactant | N-(9-fluorenylmethyloxycarbonyl)-glycine | 1.24 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)O | C17H15NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.80 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-[N-(9-fluorenylmethyloxycarbonyl)-glycinyl]-4-methylvalerohydrazide | 1.54 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNC(CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)CC(C)C | C38H45N3O6
